US08212041B2
A 48 mL sealed tube was charged with N-((6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)-7-methoxy-1,5-naphthyridin-4-amine (0.150 g, 0.439 mmol), 1H-pyrazol-4-ylboronic acid (0.0737 g, 0.658 mmol), and DMF (3.00 ml, 38.6 mmol). A solution of potassium carbonate (0.182 g, 1.32 mmol) and water (0.696 ml, 38.6 mmol) was added, followed by PdCl2(dppf)-CH2Cl2Adduct (0.0358 g, 0.0439 mmol). The tube was flushed with argon, sealed, then placed in a 90° C. oil bath for 5 hours. The mixture was concentrated and the black solid was triturated with water to remove K2CO3, then purified by column chromatography using a 40 g RediSep column, eluting with 30-70% (90:10:1 DCM:MeOH:NH4OH solution) in DCM over 40 minutes. Pure fractions were collected to give N-((6-(1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)-7-methoxy-1,5-naphthyridin-4-amine as a white solid.

reactant | N-((6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)-7-methoxy-1,5-naphthyridin-4-amine | 0.439 mmol, 0.150 g | ClC=1C=CC=2N(N1)C(=NN2)CNC2=CC=NC1=CC(=CN=C21)OC | C15H12ClN7O
reactant | 1H-pyrazol-4-ylboronic acid | 0.658 mmol, 0.0737 g | N1N=CC(=C1)B(O)O | C3H5BN2O2
reactant | DMF | 38.6 mmol, 3.00 ml | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 1.32 mmol, 0.182 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 38.6 mmol, 0.696 ml | O | H2O
product | N-((6-(1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)-7-methoxy-1,5-naphthyridin-4-amine | N1N=CC(=C1)C=1C=CC=2N(N1)C(=NN2)CNC2=CC=NC1=CC(=CN=C21)OC | C18H15N9O
